US06528525B1
(b) (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxyphenyl)-3-hydroxy-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one
A solution of dibutylboron triflate in dichloromethane (1M, 67.9 ml) and triethylamine (10.2 ml) was added to a solution of (S)-4-benzyl-3-[(4-isopropylphenoxy)acetyl]oxazolidine-2-one (20.0 g) in dichloromethane (150 ml) at 0° C. The mixture was stirred at the same temperature for 1 hour. To the reaction mixture a solution of 4-benzyloxybenzaldehyde (13.2 g) in dichloromethane (20 ml) was added dropwise at −78° C. and then stirred at the same temperature for 40 minutes. The reaction mixture was further stirred at 0° C. for 1 hour. At the end of this time a mixture of saturated aqueous sodium chloride solution/methanol=1/1 (50 ml) and aqueous hydrogen peroxide solution (31%)/methanol=2/1 (150 ml) was added to the reaction mixture and stirred for 1 hour. The mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water and the layers were separated. The ethyl acetate layer was washed with aqueous hydrogen chloride solution (1N), saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified via chromatography on a silica gel column using hexane/ethyl acetate=3/1-1/1 as the eluant to afford the desired compound (25.7 g) as a mass of foam.

reactant | dibutylboron triflate | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | (S)-4-benzyl-3-[(4-isopropylphenoxy)acetyl]oxazolidine-2-one | 20.0 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COC1=CC=C(C=C1)C(C)C)=O | C21H23NO4
reactant | 4-benzyloxybenzaldehyde | 13.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dichloromethane | 1M, 67.9 ml | ClCCl | CH2Cl2
solvent | triethylamine | 10.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxyphenyl)-3-hydroxy-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one | 25.7 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=CC=C(C=C1)OCC1=CC=CC=C1)OC1=CC=C(C=C1)C(C)C)=O | C35H35NO6
